US08420865B2
Synthesis of 4-hydroxyphenylphenylperylenylphosphine oxide (4)
4-Methoxyphenylphenylperylenylphosphine oxide (400 mg, 0.83 mmol) was dissolved in 30 mL of dichloromethane, and borane tribromide (2.5 mL, 2.5 mmol, 4 eq) was added dropwise to the solution at −78° C. After stirring for 18 hours, 10 mL of H2O was added to the mixture to terminate the reaction. Reddish brown precipitates thus formed were subjected to suction filtration. The crystals obtained were dried overnight in a drying pistol to give reddish brown crystals (yield 77%). The crystals obtained were identified by 1H-NMR, 31P-NMR, IR, ESI-MS and UV.

reactant | 4-Methoxyphenylphenylperylenylphosphine oxide | 0.83 mmol, 400 mg | COC1=CC=C(C=C1)P(C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)(C4=CC=CC=C4)=O | C33H23O2P
reactant | borane tribromide | 2.5 mmol, 2.5 mL, 4 eq | [Br-].[Br-].[Br-].B
reactant | H2O | 10 mL | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-hydroxyphenylphenylperylenylphosphine oxide | yield 77% | OC1=CC=C(C=C1)P(C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)(C4=CC=CC=C4)=O | C32H21O2P
